US03952012
5-(p-Nitrobenzoyl)-1-methylpyrrole-2-acetic acid:
A solution of 3.2 g. (0.01 mole) of ethyl 5-(p-nitrobenzoyl)-1-methylpyrrole-2-acetate and 25 ml. ethanol is brought to reflux. To this is added dropwise 10 ml. of 1N sodium hydroxide solution. After the addition is complete, the ethanol is evaporated and the residue is acidified with dilute hydrochloric acid. The resulting solid, 5-(p-nitrobenzoyl)-1-methylpyrrole-2-acetic acid, is separated by filtration and purified by recrystallization from ethanol, m.p. 192°-195°C.

reactant | ethyl 5-(p-nitrobenzoyl)-1-methylpyrrole-2-acetate | 0.01 mole | [N+](=O)([O-])C1=CC=C(C(=O)C2=CC=C(N2C)CC(=O)OCC)C=C1 | C16H16N2O5
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 5-(p-Nitrobenzoyl)-1-methylpyrrole-2-acetic acid | [N+](=O)([O-])C1=CC=C(C(=O)C2=CC=C(N2C)CC(=O)O)C=C1 | C14H12N2O5
